US03988339
Reducing the 7-nitro group of 7-nitro-8-trifluoromethylisoquinoline with zinc and acetic acid by the procedure of Example 17 gives 7-amino-8-trifluoromethylisoquinoline. Hydrogenating by the procedure of Example 9 gives 7-amino-8-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 7-nitro-8-trifluoromethylisoquinoline | [N+](=O)([O-])C1=CC=C2C=CN=CC2=C1C(F)(F)F | C10H5F3N2O2
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-amino-8-trifluoromethylisoquinoline | NC1=CC=C2C=CN=CC2=C1C(F)(F)F | C10H7F3N2
